US08029919B2
10-Methyl-3-(2-{4′-[2-(10-methylphenothiazin-3-yl)vinyl]biphenyl-4-yl}vinyl)phenothiazine
0.80 g (7.1 mmol) of potassium tert-butoxide and then 1.82 g (3.3 mmol) of 10-methylphenothiazine-3-carbaldehyde were added under nitrogen at room temperature with stirring to a solution of 1.42 g (3.14 mmol) of diethyl[4′-(diethoxyphosphoryl-methyl)biphenyl-4-ylmethyl]phosphonate (U.S. Pat. No. 3,984,399, Example 2, column 29, line 58-66) in 32 ml of dimethyl sulfoxide dried over molecular sieve. After stirring at room temperature for four hours, the reaction solution was diluted with 70 ml of methanol and stirred for a further 15 min. The precipitate was filtered off, washed with 172 ml of methanol and dried at 35° C. under reduced pressure. The crude product (1.70 g) was recrystallized in 255 ml of N-methylpyrrolidone. After the solvent residues had been removed at 225° C. under high vacuum, 0.98 g (50% of theory) of analytically pure yellow solid having a melting point of 380° C. was obtained, whose solution in N-methylpyrrolidone fluoresced at λ=576 nm.

reactant | potassium tert-butoxide | 7.1 mmol, 0.80 g | CC(C)([O-])C.[K+]
reactant | 10-methylphenothiazine-3-carbaldehyde | 3.3 mmol, 1.82 g | CN1C2=CC=CC=C2SC=2C=C(C=CC12)C=O | C14H11NOS
reactant | diethyl[4′-(diethoxyphosphoryl-methyl)biphenyl-4-ylmethyl]phosphonate | 3.14 mmol, 1.42 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)CP(=O)(OCC)OCC | C22H32O6P2
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 10-Methyl-3-(2-{4′-[2-(10-methylphenothiazin-3-yl)vinyl]biphenyl-4-yl}vinyl)phenothiazine | CN1C2=CC=CC=C2SC=2C=C(C=CC12)C=CC1=CC=C(C=C1)C1=CC=C(C=C1)C=CC=1C=CC=2N(C3=CC=CC=C3SC2C1)C | C42H32N2S2
